### PR TITLE
Split Monoidal.Interchange into its components

### PR DESCRIPTION
**Pull request by JacquesCarette**
with Interchange.Braided and Interchange.Symmetric in a sub-directory. Reformat all of it to be left/right even though it gets way beyond 80 columns; this lets one see more clearly what is being done. (Actually did manage to simplify a couple of proofs) Introduce a number of intermediate lemmas that clarify interediate steps. Naming could be improved.

This is by no means 'done', but still seems worth putting in at this point.

Q: is there a reference for the main proof?

### CODE REVIEW

File: src/Categories/Category/Monoidal/Interchange.agda [hunk 1]
```diff
@@ -45,8 +34,8 @@ private
 -- monoidal functor.  (See also Categories.Functor.Monoidal.Tensor.)
 
 record HasInterchange (M : Monoidal C) : Set (o ⊔ ℓ ⊔ e) where
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange.agda:36]: I'm now tempted to add two more records: `HasBraidedInterchange` and `HasSymmetricInterchange` with the extra fields that are in the respective modules. This would completely separate the axioms from the proofs, so that the former could be used in down-stream proofs/constructions without pulling in the big concrete proof terms. But maybe this is for a future PR.

File: src/Categories/Category/Monoidal/Interchange/Symmetric.agda [hunk 2]
```diff
@@ -0,0 +1,84 @@
...
+  σ⇐ = λ {X Y} → braiding.⇐.η (X , Y)
+
+swapInner-commutative : [ (X₁ ⊗₀ X₂) ⊗₀ (Y₁ ⊗₀ Y₂) ⇒
+                          (X₁ ⊗₀ X₂) ⊗₀ (Y₁ ⊗₀ Y₂) ]⟨
+                           i⇒    ⇒⟨ (X₁ ⊗₀ Y₁) ⊗₀ (X₂ ⊗₀ Y₂) ⟩
+                           i⇒
+                         ≈ id
+                         ⟩
+swapInner-commutative = begin
+    i⇒ ∘ i⇒                                                               ≈⟨ pullʳ (cancelInner α.isoʳ) ⟩
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange/Symmetric.agda:61]: The `≈⟨ ... ⟩` part here seems misaligned.

File: src/Categories/Category/Monoidal/Interchange/Symmetric.agda [hunk 3]
```diff
@@ -0,0 +1,84 @@
...
+    α⇐ ∘ id ⊗₁ (α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ id ⊗₁ (α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒  ≈˘⟨ refl⟩∘⟨ pushˡ split₂ˡ ⟩
+    α⇐ ∘ id ⊗₁ ((α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒        ≈⟨ refl⟩∘⟨ refl⟩⊗⟨ (∘-resp-≈ʳ sym-assoc ○ α[σ⊗1]α⁻¹.isoʳ) ⟩∘⟨refl ⟩
+    α⇐ ∘ id ⊗₁ id ∘ α⇒                                                    ≈⟨ elim-center ⊗.identity ○ α.isoˡ ⟩
+    id                                                                     ∎
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange/Symmetric.agda:65]: and the `∎` here as well.

File: src/Categories/Category/Monoidal/Interchange/Symmetric.agda [hunk 4]
```diff
@@ -0,0 +1,84 @@
...
+                          (X₁ ⊗₀ X₂) ⊗₀ (Y₁ ⊗₀ Y₂) ]⟨
+                           i⇒    ⇒⟨ (X₁ ⊗₀ Y₁) ⊗₀ (X₂ ⊗₀ Y₂) ⟩
+                           i⇒
+                         ≈ id
+                         ⟩
+swapInner-commutative = begin
+    i⇒ ∘ i⇒                                                               ≈⟨ pullʳ (cancelInner α.isoʳ) ⟩
+    α⇐ ∘ id ⊗₁ (α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ id ⊗₁ (α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒  ≈˘⟨ refl⟩∘⟨ pushˡ split₂ˡ ⟩
+    α⇐ ∘ id ⊗₁ ((α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒        ≈⟨ refl⟩∘⟨ refl⟩⊗⟨ (∘-resp-≈ʳ sym-assoc ○ α[σ⊗1]α⁻¹.isoʳ) ⟩∘⟨refl ⟩
+    α⇐ ∘ id ⊗₁ id ∘ α⇒                                                    ≈⟨ elim-center ⊗.identity ○ α.isoˡ ⟩
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange/Symmetric.agda:64]: ... and here too...

File: src/Categories/Category/Monoidal/Interchange/Braided.agda [hunk 5]
```diff
@@ -0,0 +1,442 @@
...
+swapInner-coherent = begin
+    α⇐ ∘ id ⊗₁ (α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒                       ≈⟨ refl⟩∘⟨ pushˡ split₂ˡ ⟩
+    α⇐ ∘ id ⊗₁ α⇒ ∘ id ⊗₁ (σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒                 ≈⟨ refl⟩∘⟨ refl⟩∘⟨ pushˡ split₂ˡ ⟩
+    α⇐ ∘ id ⊗₁ α⇒ ∘ id ⊗₁ (σ⇒ ⊗₁ id) ∘ id ⊗₁ α⇐ ∘ α⇒           ≈⟨ refl⟩∘⟨ refl⟩∘⟨ refl⟩∘⟨ conjugate-from α (idᵢ ⊗ᵢ α) (⟺ pentagon) ⟩
+    α⇐ ∘ id ⊗₁ α⇒ ∘ id ⊗₁ (σ⇒ ⊗₁ id) ∘ (α⇒ ∘ α⇒ ⊗₁ id) ∘ α⇐    ≈˘⟨ pullʳ (pullʳ (extendʳ (pushˡ assoc-commute-from))) ⟩
+    (α⇐ ∘ id ⊗₁ α⇒ ∘ α⇒ ∘ (id ⊗₁ σ⇒) ⊗₁ id) ∘ α⇒ ⊗₁ id ∘ α⇐    ≈⟨ pushʳ sym-assoc ⟩∘⟨refl ⟩
+    ((α⇐ ∘ id ⊗₁ α⇒ ∘ α⇒) ∘ (id ⊗₁ σ⇒) ⊗₁ id) ∘ α⇒ ⊗₁ id ∘ α⇐  ≈⟨ pushˡ (conjugate-from (α ⊗ᵢ idᵢ) α (assoc ○ pentagon)) ⟩∘⟨refl ⟩
+    (α⇒ ∘ α⇐ ⊗₁ id ∘ (id ⊗₁ σ⇒) ⊗₁ id) ∘ α⇒ ⊗₁ id ∘ α⇐         ≈˘⟨ pushʳ (pushʳ (pushˡ split₁ˡ)) ⟩
+    α⇒ ∘ α⇐ ⊗₁ id ∘ (id ⊗₁ σ⇒ ∘ α⇒) ⊗₁ id ∘ α⇐                 ≈˘⟨ refl⟩∘⟨ pushˡ split₁ˡ ⟩
+    α⇒ ∘ (α⇐ ∘ id ⊗₁ σ⇒ ∘ α⇒) ⊗₁ id ∘ α⇐                        ∎
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange/Braided.agda:146]: Misaligned `∎`?

File: src/Categories/Category/Monoidal/Interchange/Braided.agda [hunk 6]
```diff
@@ -0,0 +1,442 @@
...
+
+private
+  α-mid : ∀ {X} {Y} {Z} {W} → X ⊗₀ ((Y ⊗₀ Z) ⊗₀ W) ⇒ (X ⊗₀ Y) ⊗₀ (Z ⊗₀ W)
+  α-mid = α⇒ ∘ α⇐ ⊗₁ id ∘ α⇐
+
+private
+  serialize-assoc : α⇒ {X₁} {Y₁} {Z₁} ⊗₁ α⇒ {X₂} {Y₂} {Z₂} ≈ id ⊗₁ α⇒ ∘ α⇐ ∘ id ⊗₁ (α⇒ ∘ α⇐ ⊗₁ id ∘ α⇐) ∘ α⇒ ∘ id ⊗₁ α⇐ ∘ α⇒
+  serialize-assoc = begin
+    α⇒ ⊗₁ α⇒                                           ≈⟨ serialize₂₁ ⟩
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange/Braided.agda:155]: Some of the `≈⟨ ... ⟩` seem to be misaligned here too.

File: src/Categories/Category/Monoidal/Interchange/Braided.agda [hunk 7]
```diff
@@ -0,0 +1,442 @@
...
+                    (X₁ ⊗₀ (Y₁ ⊗₀ Z₁)) ⊗₀ (X₂ ⊗₀ (Y₂ ⊗₀ Z₂)) ]⟨
+                    i⇒ ⊗₁ id    ⇒⟨ ((X₁ ⊗₀ Y₁) ⊗₀ (X₂ ⊗₀ Y₂)) ⊗₀ (Z₁ ⊗₀ Z₂) ⟩
+                    i⇒          ⇒⟨ ((X₁ ⊗₀ Y₁) ⊗₀ Z₁) ⊗₀ ((X₂ ⊗₀ Y₂) ⊗₀ Z₂) ⟩
+                    α⇒ ⊗₁ α⇒
+                  ≈ α⇒          ⇒⟨ (X₁ ⊗₀ X₂) ⊗₀ ((Y₁ ⊗₀ Y₂) ⊗₀ (Z₁ ⊗₀ Z₂)) ⟩
+                    id ⊗₁ i⇒    ⇒⟨ (X₁ ⊗₀ X₂) ⊗₀ ((Y₁ ⊗₀ Z₁) ⊗₀ (Y₂ ⊗₀ Z₂)) ⟩
+                    i⇒
+                  ⟩
+swapInner-assoc = begin
+    α⇒ ⊗₁ α⇒ ∘ i⇒ ∘ i⇒ ⊗₁ id                                   ≈⟨ serialize-assoc ⟩∘⟨refl ⟩
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange/Braided.agda:177]: The `≈⟨ ... ⟩` seems off by a few chars here too.

Comment (sstucki) [reply src/Categories/Category/Monoidal/Interchange/Braided.agda:177]: there are more of these misalignments along the proof. Maybe it's intentional? In any case, I'll stop reporting them now. 😉

File: src/Categories/Category/Monoidal/Interchange/Braided.agda [hunk 8]
```diff
@@ -0,0 +1,442 @@
...
+      id ⊗₁ λ⇒ ∘ id ⊗₁ swapˡ ∘ α⇒                                       ≈˘⟨ pushˡ split₂ˡ ⟩
+      id ⊗₁ (λ⇒ ∘ α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ α⇒                             ≈⟨ refl⟩⊗⟨ mid-1-elim-coh ⟩∘⟨refl ⟩
+      id ⊗₁ (id ⊗₁ λ⇒) ∘ α⇒                                            ≈˘⟨ assoc-commute-from ⟩
+      α⇒ ∘ (id ⊗₁ id) ⊗₁ λ⇒                                            ≈⟨ refl⟩∘⟨ ⊗.identity ⟩⊗⟨refl ⟩
+      α⇒ ∘ id ⊗₁ λ⇒                                                    ∎)) ⟩∘⟨refl ⟩
+    (id ⊗₁ ρ⇒ ∘ α⇒ ∘ id ⊗₁ λ⇒) ∘ id ⊗₁ λ⇐                    ≈⟨ (sym-assoc ○ (Kelly's.coherence₂ M ⟩∘⟨refl )) ⟩∘⟨refl ⟩
+    (ρ⇒ ∘ id ⊗₁ λ⇒) ∘ id ⊗₁ λ⇐                                ≈⟨ cancelʳ (_≅_.isoʳ (idᵢ ⊗ᵢ unitorˡ)) ⟩
+    ρ⇒                                                         ∎
+
+-- Two different ways of swapping things around are the same
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange/Braided.agda:390]: I'm impressed you found order in this chaos! 😄

File: src/Categories/Category/Monoidal/Interchange/Braided.agda [hunk 9]
```diff
@@ -0,0 +1,442 @@
...
+private
+  mid-1-elim-coh : [ X ⊗₀ (unit ⊗₀ Y) ⇒ X ⊗₀ Y ]⟨ λ⇒ ∘ α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐ ≈ id ⊗₁ λ⇒ ⟩
+  mid-1-elim-coh = begin
+    λ⇒ ∘ α⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐  ≈⟨ pullˡ (Kelly's.coherence₁ M) ⟩
+    λ⇒ ⊗₁ id ∘ σ⇒ ⊗₁ id ∘ α⇐ ≈˘⟨  pushˡ split₁ˡ ⟩
+    (λ⇒ ∘ σ⇒) ⊗₁ id ∘ α⇐     ≈⟨ braiding-coherence B ⟩⊗⟨refl ⟩∘⟨refl ⟩
+    ρ⇒ ⊗₁ id ∘ α⇐             ≈˘⟨ switch-fromtoʳ α triangle ⟩
+    id ⊗₁ λ⇒                  ∎
+
+  Kelly₁′ :  [ unit ⊗₀ (X ⊗₀ Y) ⇒ X ⊗₀ Y ]⟨ λ⇒ ⊗₁ id ∘ α⇐ ≈ λ⇒ ⟩
```
Comment (sstucki) [inline src/Categories/Category/Monoidal/Interchange/Braided.agda:333]: Maybe we should just move all of those one-line`Kelly` variants into the module where the original properties are proved? They would probably be more useful there? And similarly for `σ⁻¹-coherence`?

**Review by sstucki — APPROVED** [review]
LGTM, modulo some minor alignment issues and some suggestions for moving local defs. to other modules. But I'd also be happy to merge this as is.

File: src/Categories/Category/Monoidal/Interchange/Symmetric.agda (hunk 3 above)
Comment (JacquesCarette) [reply src/Categories/Category/Monoidal/Interchange/Symmetric.agda:65]: unfortunately, this seems to be font-dependent. On my Mac, these are as lined-up as can be.

File: src/Categories/Category/Monoidal/Interchange/Braided.agda (hunk 7 above)
Comment (JacquesCarette) [reply src/Categories/Category/Monoidal/Interchange/Braided.agda:177]: There are a few misalignments that are intentional (because they'd cause things to go too far right), but mostly it's because of differences between fonts and Aquamacs.  I definitely see that here on github, things are not well aligned.

**Comment by JacquesCarette** [comment]
Note that there might be definitions and theorems/proofs in https://arxiv.org/abs/1307.5969 of direct relevance.
